US07015236B2
3-Cyano-4-trifluoromethylpyridine (Compound VIIb, Step F)
To a solution of 28% sodium methoxide (580 mg, 3.0 mmol), a solution prepared by dissolving 3-[(4,4,4-trifluoro-3-oxo-1-butenyl)amino]-2-propenenitrile (a mixture of IIa and IIb; 380 mg, 2.0 mmol) in methanol (5 ml) was added at room temperature and then, the mixture was refluxed for 2 hours. The reaction solution was poured into water and extracted with ethyl acetate. The organic layers were combined, washed with brine, dried over magnesium sulfate and then concentrated. The resulting residue was purified by silica gel column chromatography (a eluting solvent: hexane/ethyl acetate=3/1) to obtain 195 mg (yield 56.5%) of the title compound.

reactant | sodium methoxide | 3.0 mmol, 580 mg | C[O-].[Na+]
reactant | 3-[(4,4,4-trifluoro-3-oxo-1-butenyl)amino]-2-propenenitrile | FC(C(C=CNC=CC#N)=O)(F)F | C7H5F3N2O
reactant | water | O | H2O
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methanol | 5 ml | CO | CH4O
product | 3-Cyano-4-trifluoromethylpyridine | 195 mg, yield 56.5% | C(#N)C=1C=NC=CC1C(F)(F)F | C7H3F3N2
